US06593330B2
Step 1: 2-Chloro-6-[(3,5-difluorobenzyl)oxy]pyrazine
The title compound was prepared according to the procedure of example 4, step 1 starting from 2,6-dichloropyrazine (444 mg, 3.00 mmol), 3,5-difluorobenzyl alcohol (475 mg, 3.30 mmol) and NaH (55% in mineral oil, 144 mg, 3.30 mmol). The solid product was collected, washed with water, and dried to give 0.77 g (100%) of the crude product that was used directly in the next step. An analytical sample was recrystallized from diethyl ether/hexane: mp 70-71° C. MS m/z 257 (M+H)+. Anal. (C11H7ClFN2O) C, H, N.

reactant | 2,6-dichloropyrazine | 3.00 mmol, 444 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 3,5-difluorobenzyl alcohol | 3.30 mmol, 475 mg | FC=1C=C(CO)C=C(C1)F | C7H6F2O
reactant | NaH | 3.30 mmol, 144 mg | [H-].[Na+]
product | 2-Chloro-6-[(3,5-difluorobenzyl)oxy]pyrazine | ClC1=NC(=CN=C1)OCC1=CC(=CC(=C1)F)F | C11H7ClF2N2O
